US09238640B2
To a stirred solution of 4-amino-3-iodo-benzoic acid methyl ester (11.1 g, 40.0 mmol) in pyridine (80 mL) was added acetyl chloride (3.30 g, 42.0 mmol) at 0° C. under nitrogen. Stirring continued at 0° C. for 30 minutes. The ice-bath was removed, and stirring continued at room temperature for 16 hours. Pyridine was evaporated under reduced pressure. The residue was taken in ethyl acetate (300 mL). The organic phase was washed with 2 N aqueous HCl (200 mL), water (200 mL), brine (200 mL), and then dried over anhydrous Na2SO4. Removal of solvent gave 4-acetylamino-3-iodo-benzoic acid methyl ester as a white solid. Yield: 12.71 g (99%).

reactant | 4-amino-3-iodo-benzoic acid methyl ester | 40.0 mmol, 11.1 g | COC(C1=CC(=C(C=C1)N)I)=O | C8H8INO2
reactant | acetyl chloride | 42.0 mmol, 3.30 g | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 80 mL | N1=CC=CC=C1 | C5H5N
product | 4-acetylamino-3-iodo-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)NC(C)=O)I)=O | C10H10INO3
